US09315458B2
M) rac-2-(trans-2-hydroxycyclohexyl)-4-methyl-1-oxo-6-(4-(1H-pyrazol-1-yl)benzyl)isoindoline-5-carbonitrile
To a solution of rac-3-hydroxy-2-(trans-2-hydroxycyclohexyl)-4-methyl-1-oxo-6-[4-(1H-pyrazol-1-yl)benzyl]-2,3-dihydro-1H-isoindole-5-carbonitrile (0.10 g) in dichloromethane (2.00 mL) was added trifluoroacetic acid (0.31 mL) under ice-cooling. After 15 min, triethylsilane (0.50 mL) was added thereto, and the mixture was stirred at 15° C. for 16 hr. The reaction mixture was poured into saturated aqueous sodium bicarbonate solution, and the mixture was extracted with ethyl acetate (×2). The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by prep-HPLC, then lyophilized to give the title compound (0.02 g).

reactant | rac-3-hydroxy-2-(trans-2-hydroxycyclohexyl)-4-methyl-1-oxo-6-[4-(1H-pyrazol-1-yl)benzyl]-2,3-dihydro-1H-isoindole-5-carbonitrile | 0.10 g | OC1N(C(C2=CC(=C(C(=C12)C)C#N)CC1=CC=C(C=C1)N1N=CC=C1)=O)[C@H]1[C@@H](CCCC1)O | C26H26N4O3
reactant | trifluoroacetic acid | 0.31 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 0.50 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2.00 mL | ClCCl | CH2Cl2
product | rac-2-(trans-2-hydroxycyclohexyl)-4-methyl-1-oxo-6-(4-(1H-pyrazol-1-yl)benzyl)isoindoline-5-carbonitrile | 0.02 g | O[C@H]1[C@@H](CCCC1)N1C(C2=CC(=C(C(=C2C1)C)C#N)CC1=CC=C(C=C1)N1N=CC=C1)=O | C26H26N4O2
